US05118599
5-ACETYL-5-METHYL-1,3-DIOXANE
A solution of 3,3-bis(hydroxymethyl)-2-butanone (66.1parts) and s-trioxane (27 parts) in toluene (250 parts) containing p-toluenesulfonic acid (1.9 parts) is held under reflux while water of reaction is continuously removed (ca. 0.5 hr) by a Dean-Stark trap. The solution is cooled, neutralized by stirring with solid sodium bicarbonate and filtered Toluene is removed in vacuo and the residue distilled at 50-55° C. and 0.6 mm Hg. Proton NMR and combustion analysis are consistent with those values predicted for the desired product. Combustion Analysis for C7H12O3 --Calculated: C, 58.3%; H, 8.4%. Found: C, 57.9%; H, 8.2%.

reactant | 3,3-bis(hydroxymethyl)-2-butanone | OCC(C(C)=O)(C)CO | C6H12O3
reactant | s-trioxane | C1OCOCO1 | C3H6O3
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 5-ACETYL-5-METHYL-1,3-DIOXANE | C(C)(=O)C1(COCOC1)C | C7H12O3
